US08486297B2
A mixture of 3.30 g (13.1 mmol) of 5-hexylthiophen-2-ylhydroxyboronic acid sodium salt, 4.20 g (13.1 mmol) of 4-bromo-2-fluoro-4′-pentylbiphenyl, 2.2 g (26.2 mmol) of sodium hydrogencarbonate and 0.70 g (0.61 mmol) of tetrakis(triphenylphosphine)palladium(0) in THF/water (1:1) is heated under reflux for 6 h. The mixture is diluted with MTBE, and the organic phase is separated off. The aqueous phase is extracted with MTBE. The combined organic phases are washed with sat. sodium chloride soln. and dried using sodium sulfate. The solution is concentrated to completion, and the residue is purified by column chromatography (SiO2, n-heptane). The further purification is carried out by recrystallisation from methanol/pentane (5:1). 2-(2-Fluoro-4′-pentylbiphenyl-4-yl)-5-hexylthiophene is obtained as a colourless solid having an m.p. of 44° C.

reactant | 5-hexylthiophen-2-ylhydroxyboronic acid sodium salt | 13.1 mmol, 3.30 g | [Na+].C(CCCCC)C1=CC=C(S1)OB([O-])O
reactant | 4-bromo-2-fluoro-4′-pentylbiphenyl | 13.1 mmol, 4.20 g | BrC1=CC(=C(C=C1)C1=CC=C(C=C1)CCCCC)F | C17H18BrF
reactant | sodium hydrogencarbonate | 26.2 mmol, 2.2 g | C(O)([O-])=O.[Na+]
solvent | THF water | C1CCOC1.O
solvent | MTBE | CC(C)(C)OC | C5H12O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.61 mmol, 0.70 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-Fluoro-4′-pentylbiphenyl-4-yl)-5-hexylthiophene | FC1=C(C=CC(=C1)C=1SC(=CC1)CCCCCC)C1=CC=C(C=C1)CCCCC | C27H33FS
